// cmp_ideal: ideal clocked comparator (instantaneous, no offset)
simulator lang=spectre
global 0

ahdl_include "cmp_ideal.va"

// Power supplies
Vvdd (vdd 0) vsource dc=0.9 type=dc
Vgnd (gnd 0) vsource dc=0.0 type=dc

// Clock: 1GHz (1ns period), delayed 0.5ns
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=1n delay=0.5n \
        rise=20p fall=20p

// Differential input: VCM=0.45V (VDD/2), diff=1mV (±0.5mV), polarity swaps at 5ns
Vvinp (vinp 0) vsource type=pwl wave=[0 0.4505 4.9e-9 0.4505 5e-9 0.4495 10e-9 0.4495]
Vvinn (vinn 0) vsource type=pwl wave=[0 0.4495 4.9e-9 0.4495 5e-9 0.4505 10e-9 0.4505]

// DUT (port order: CLK VINN VINP DCMPN DCMPP LP LM VSS VDD)
XDUT (clk vinn vinp out_n out_p lp_int lm_int gnd vdd) cmp_ideal

tran tran stop=10n maxstep=5p
save clk:2e vinp:6f vinn:6f out_p:2e out_n:2e
